US09334304B2
Dimethyl 4,4′-((1E,1′E)-1,4-phenylenebis(ethene-2,1-diyl))dibenzoate (OPV-3 diester)
A solution of Methyl 4-((diethoxyphosphoryl)methyl)benzoate (2.02 g, 7.05 mmol) and terepthaldehyde (0.462 g, 3.44 mmol) in THF (12 mL) was added to a suspension of NaOMe (1.12 g, 20.6 mmol) in THF (70 mL). The reaction was stirred under nitrogen for four hours and was then neutralized with 1M HCl. The resulting suspension was filtered, the collected solid was washed with THF, EtOH, and H2O, then allowed to dry under vacuum to give a yellow solid (1.15 g, 2.88 mmol, 84%). Characterization data matches literature. J. C. Sancho-García, et al., J. Phys. Chem. B, 109:4872-4880 (2005).

reactant | Methyl 4-((diethoxyphosphoryl)methyl)benzoate | 7.05 mmol, 2.02 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)OC)C=C1 | C13H19O5P
reactant | terepthaldehyde | 3.44 mmol, 0.462 g | C1=CC(=CC=C1C=O)C=O | C8H6O2
reactant | NaOMe | 20.6 mmol, 1.12 g | C[O-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | Dimethyl 4,4′-((1E,1′E)-1,4-phenylenebis(ethene-2,1-diyl))dibenzoate | 2.88 mmol, 1.15 g, 84% | C1(=CC=C(C=C1)/C=C/C1=CC=C(C(=O)OC)C=C1)/C=C/C1=CC=C(C(=O)OC)C=C1 | C26H22O4
